US05578607
A mixture of 5,8-dimethyl-6-nitro-4-quinolone (7.12 g, 32.7 mmol), phosphorus oxybromide (7.47 g, 26.12 mmol), pyridine (5.3 mL), and toluene (90 mL) is heated at 90° C. for 6 hours. The mixture is filtered hot, and the solid is washed with water and methylene chloride. The filtrate is extracted with methylene chloride (3×100 mL), and the combined organic layers are dried (sodium sulfate) and evaporated to afford 4-bromo-5,8-dimethyl-6-nitroquinoline.

reactant | 5,8-dimethyl-6-nitro-4-quinolone | 32.7 mmol, 7.12 g | CC1=C2C(CC=NC2=C(C=C1[N+](=O)[O-])C)=O | C11H10N2O3
reactant | phosphorus oxybromide | 26.12 mmol, 7.47 g | P(=O)(Br)(Br)Br | Br3OP
reactant | pyridine | 5.3 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-5,8-dimethyl-6-nitroquinoline | BrC1=CC=NC2=C(C=C(C(=C12)C)[N+](=O)[O-])C | C11H9BrN2O2
